US05977376
To a solution of methyl 4-(1,2,4-triazol-1-yl)-2-trifluoromethylbenzoate (5.07 g) in methanol was added aqueous sodium hydroxide (1.50 g) at 20° C. The mixture was stirred for 4 hours, partially evaporated and extracted with ether. The aqueous layer was acidified (aqueous citric acid) and extracted with ethyl acetate. The organic layer was dried (magnesium sulfate), and evaporated to give 4-(1,2,4-triazol-1-yl)-2-trifluoromethylbenzoic acid (3.32 g), NMR 8.25(1H), 8.34-8.42(3H), 10.00(s, 1H).

reactant | methyl 4-(1,2,4-triazol-1-yl)-2-trifluoromethylbenzoate | 5.07 g | N1(N=CN=C1)C1=CC(=C(C(=O)OC)C=C1)C(F)(F)F | C11H8F3N3O2
reactant | sodium hydroxide | 1.50 g | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 4-(1,2,4-triazol-1-yl)-2-trifluoromethylbenzoic acid | 3.32 g | N1(N=CN=C1)C1=CC(=C(C(=O)O)C=C1)C(F)(F)F | C10H6F3N3O2
